US06835732B2
4-Chloromethyl-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide
0.165 g of 4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-ylamine (0.00047 Mol) were dissolved in dioxane (5 ml) and combined with 0.1 ml of triethylamine (0.0007 Mol), 0.006 g DMAP (0.000047 Mol) and a solution of 0.116 g of 4-(chlormethyl)benzoylchlorid (0.00062 Mol) in dioxane (1 ml). The reaction mixture was stirred for 6 hrs. at 70° C. After cooling down to room temperature, water (10 ml) and sat. NaHCO3 (10 ml) were added. A precipitation formed. It was filtered, washed with water and tried. This crude product was subjected to column chromatography (silicagel, CH2Cl2/MeOH 19:1). The title compound was obtained as a light yellow solid (65%); F.p.: 166-168° C.

reactant | 4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-ylamine | 0.00047 Mol, 0.165 g | COC1=CC=C(C2=C1N=C(S2)N)C=2N=C(SC2)N2CCOCC2 | C15H16N4O2S2
reactant | triethylamine | 0.0007 Mol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(chlormethyl)benzoylchlorid | 0.00062 Mol, 0.116 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | DMAP | 0.000047 Mol, 0.006 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 4-Chloromethyl-N-[4-methoxy-7-(2-morpholin-4-yl-thiazol-4-yl)-benzothiazol-2-yl]-benzamide | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C=3N=C(SC3)N3CCOCC3)OC)C=C1 | C23H21ClN4O3S2
